US07501425B1
1-Cyclopentyl-7-{3-methyl-4-[2-(diethylamino)ethoxy]-phenylamino}pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 70 mg (0.16 mmol) of 1-cyclopentyl-7-{3-methyl-4-[2-(diethylamino)ethoxy]phenylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 72 mg (0.58 mmol) of potassium tert-butoxide in 3.0 mL of DMSO. The crude semi-solid residue is dissolved in a mixture of tert-butyl methyl ether and hexane. The solution is allowed to evaporate slowly to less than 1 mL, then diluted with 2 mL of 1:3 diethyl ether/hexane. The precipitated solids are collected and dried to give 17 mg (24%) of the title compound: mp>95° C. (dec).

reactant | 1-cyclopentyl-7-{3-methyl-4-[2-(diethylamino)ethoxy]phenylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.16 mmol, 70 mg | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)NC2=CC(=C(C=C2)OCCN(CC)CC)C)=O | C24H34N6O2
reactant | potassium tert-butoxide | 0.58 mmol, 72 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 3.0 mL | CS(=O)C | C2H6OS
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | hexane | CCCCCC | C6H14
product | 1-Cyclopentyl-7-{3-methyl-4-[2-(diethylamino)ethoxy]-phenylamino}pyrimido[4,5-d]pyrimidin-2(1H)-one | 17 mg, 24% | C1(CCCC1)N1C(N=CC=2C1=NC(=NC2)NC2=CC(=C(C=C2)OCCN(CC)CC)C)=O | C24H32N6O2
